US07910734B2
1-Cyclopropylmethyl-4-[2-(3,3,5,5-tetramethylcyclohexyl)phenyl]piperazine hydrobromide
To 1-cyclopropylmethyl-4-[2-(3,3,5,5-tetramethylcyclohexyl)phenyl]piperazine (306 mg, 0.863 mmol) were added methyl alcohol (3 mL) and 47% hydrobromic acid (152 mg, 0.888 mmol) to form a thoroughly dissolved sate. Ethyl acetate was slowly added thereto at room temperature to precipitate crystals, then the suspension was concentrated to dryness under reduced pressure. A mixed solvent of diethyl ether and ethyl acetate was added thereto, and the solid was triturated by sonication. Precipitated crystals were collected by filtration, washed with diethyl ether, and aircured by aspiration. Drying under reduced pressure using a vacuum pump at room temperature gave 375 mg of the title compound as colorless crystals.

reactant | 1-cyclopropylmethyl-4-[2-(3,3,5,5-tetramethylcyclohexyl)phenyl]piperazine | 0.863 mmol, 306 mg | C1(CC1)CN1CCN(CC1)C1=C(C=CC=C1)C1CC(CC(C1)(C)C)(C)C | C24H38N2
reactant | methyl alcohol | 3 mL | CO | CH4O
reactant | hydrobromic acid | 0.888 mmol, 152 mg | Br | BrH
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Cyclopropylmethyl-4-[2-(3,3,5,5-tetramethylcyclohexyl)phenyl]piperazine hydrobromide | 375 mg | Br.C1(CC1)CN1CCN(CC1)C1=C(C=CC=C1)C1CC(CC(C1)(C)C)(C)C | InChI=1S/C24H38N2.BrH/c1-23(2)15-20(16-24(3,4)18-23)21-7-5-6-8-22(21)26-13-11-25(12-14-26)17-19-9-10-19;/h5-8,19-20H,9-18H2,1-4H3;1H
